US03968230
Preparation of Dextrorotatory 1,2,3,11a-Tetrahydro-10-methyl-5H-pyrrolo[2,1-c] [1,4]benzodiazepin-5,11(10H)-dione
A mixture of 12.3 g. of L-proline, 17.7 g. of N-methyl isatoic anhydride and 100 ml. of dimethyl sulfoxide is heated on a steam bath for 6 hours, cooled and then dilted with 250 ml. of water. The reaction mixture is extracted three times with benzene. The combined benzene layers are washed with water and concentrated to remove the solvent. The residue is recrystallized from ethyl acetate yielding the pure dextrorotatory isomer.

reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-methyl isatoic anhydride | CN1C=2C(C(=O)OC1=O)=CC=CC2 | C9H7NO3
reactant | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1,2,3,11a-Tetrahydro-10-methyl-5H-pyrrolo[2,1-c] [1,4]benzodiazepin-5,11(10H)-dione | CN1C(C2N(C(C3=C1C=CC=C3)=O)CCC2)=O | C13H14N2O2
